US05521177
b) 4'-[[2-n-Propyl-4-methyl-6-(N-(2-methyl-1-cyanimino-propyl)-amino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 1c from 4'-[(2-n-propyl-4-methyl-6-amino-1H-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol -5-yl)-biphenyl and (1-methyl-ethyl)-(methylmercapto)-methylene-imino-nitrile in isopropanol.

reactant | 4'-[(2-n-propyl-4-methyl-6-amino-1H-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol -5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)N | C25H25N7
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4'-[[2-n-Propyl-4-methyl-6-(N-(2-methyl-1-cyanimino-propyl)-amino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(C(C)C)=NC#N | C30H31N9
